US08420670B2
(3,4-Difluorobenzyl)-(2-methyl-8-methylsulfanylquinolin-4-yl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-2-methyl-8-methylsulfanylquinoline and 3,4-difluorobenzylamine.

reactant | 4-chloro-2-methyl-8-methylsulfanylquinoline | ClC1=CC(=NC2=C(C=CC=C12)SC)C | C11H10ClNS
reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
product | (3,4-Difluorobenzyl)-(2-methyl-8-methylsulfanylquinolin-4-yl)-amine | FC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)SC)C)C=CC1F | C18H16F2N2S
